US07320986B2
(4-Bromophenyl)-imidazol-1-yl-methanone
4-Bromobenzoic acid (10 g, 50 mmol) in 50 ml of DMF was treated with carbonyl-1,1′-diimidazole (18 g, 112.5 mmol). The mixture was stirred for 3 hours and poured into water. The mixture was filtered and the filter cake washed with water and dried to provide the title compound. MS (DCI/NH3) m/z: 252.9 (M+H)+. 1H NMR (300 MHz, DMSO-D6) δ ppm 7.17 (dd, J=1.65, 0.81 Hz, 1H) 7.69 (t, J=1.48 Hz, 1H) 7.77 (m, 2H) 7.83 (m, 2H) 8.21 (dd, J=1.36, 0.85 Hz, 1H).

reactant | 4-Bromobenzoic acid | 50 mmol, 10 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | carbonyl-1,1′-diimidazole | 112.5 mmol, 18 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | (4-Bromophenyl)-imidazol-1-yl-methanone | BrC1=CC=C(C=C1)C(=O)N1C=NC=C1 | C10H7BrN2O
